US05112867
2-[Bis(4-hydroxyphenyl)methyl]-N-(3-methoxyphenyl)benzamide (Compound 1)
In 20 ml of methylene chloride were dissolved 0.62 g of m-anisidine and 5 ml of triethylamine. To this solution was added dropwise under ice cooling 20 ml of methylene chloride containing 2.64 g of 2-[bis(4-acetoxyphenyl)methyl]benzoyl chloride as obtained in Reference Example 2. After stirring for 30 minutes, water was added thereto. The organic layer was separated off, and the water layer was extracted with chloroform. The chloroform layer was combined with the organic layer, and the combined organic layer was washed with 2N aqueous hydrochloric acid solution and dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure, and the residue was suspended in a mixture of 50 ml of saturated aqueous sodium hydrogencarbonate solution and 50 ml of methanol, and the resulting suspension was heated under reflux for 2 hours. The suspension was concentrated under reduced pressure, and water was added to the residue. The resulting mixture was extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure, and was recrystallized to afford 1.54 g of the desired product.

reactant | m-anisidine | 0.62 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-[bis(4-acetoxyphenyl)methyl]benzoyl chloride | C(C)(=O)OC1=CC=C(C=C1)C(C1=C(C(=O)Cl)C=CC=C1)C1=CC=C(C=C1)OC(C)=O | C24H19ClO5
reactant | water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.64 g | C(Cl)Cl | CH2Cl2
product | 2-[Bis(4-hydroxyphenyl)methyl]-N-(3-methoxyphenyl)benzamide | 1.54 g | OC1=CC=C(C=C1)C(C1=C(C(=O)NC2=CC(=CC=C2)OC)C=CC=C1)C1=CC=C(C=C1)O | C27H23NO4
